US06943183B2
A solution of 2-isopropyloxirane (2.28 g, 26 mmol) and imidazole (1.80 g, 26 mmol) in acetonitrile (25 mL) was stirred at reflux for 16 h. The mixture was concentrated, and the residue was purified by flash column chromatography (SiO2, CH2Cl2-methanol-ammonium hydroxide 80:20:1) to give 1-(1H-imidazol-1-yl)-3-methyl-2-butanol as a yellow oil, 1.88 g, 46% yield. NMR spectrum was consistent with structure. MS EI: M+• 154.1103 (M+• −154.1106). 4. 6-hydroxy-5-[(phenylsulfonyl)methyl]-3,4-dihydro-1(2H)-naphthalenone

reactant | 2-isopropyloxirane | 26 mmol, 2.28 g | C(C)(C)C1OC1 | C5H10O
reactant | imidazole | 26 mmol, 1.80 g | N1C=NC=C1 | C3H4N2
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 1-(1H-imidazol-1-yl)-3-methyl-2-butanol | 46% yield | N1(C=NC=C1)CC(C(C)C)O | C8H14N2O
